US07138401B2
Step 4: 6-Chloro-9-(5-hydroxy-4-hydroxymethyl-6-methyl-pyridin-3-ylmethyl)-9H-purin-2-ylamine
A suspension of 6-chloro-9-(5-acetoxy-4-acetoxymethyl-6-methyl-pyridin-3-ylmethyl)-9H-purin-2-ylamine and K2CO3 (excess) in MeOH was heated to 50° C. for 15 min. Filtration, work-up (EtOAc) and purification by preparative TLC gave the title compound. HPLC Rt: 4.498 min. 1H-NMR (d6-DMSO) δ 8.08 (s, 1H), 7.74 (s, 1H), 6.95 (s, 1H), 5.31 (s, 2H), 4.74 (s, 2H), 2.31 (s, 3H).

reactant | 6-chloro-9-(5-acetoxy-4-acetoxymethyl-6-methyl-pyridin-3-ylmethyl)-9H-purin-2-ylamine | ClC1=C2N=CN(C2=NC(=N1)N)CC=1C=NC(=C(C1COC(C)=O)OC(C)=O)C | C17H17ClN6O4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | CO | CH4O
product | 6-Chloro-9-(5-hydroxy-4-hydroxymethyl-6-methyl-pyridin-3-ylmethyl)-9H-purin-2-ylamine | ClC1=C2N=CN(C2=NC(=N1)N)CC=1C=NC(=C(C1CO)O)C | C13H13ClN6O2
